US05665718
1.17 g (0.0027 mol) of 3-(5-dibutylaminomethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one in 30 ml of ethanol were treated with 0.65 ml (0.0031 mol) of 3.7N ethanolic hydrochloric acid. The solvent was freed completely from solvent and the residue was recrystallized from acetone. There was obtained 0.87 g (69%) of 3-(5-dibutylaminomethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6- one hydrochloride as white crystals; m.p. 183°-185°.

reactant | 3-(5-dibutylaminomethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 0.0027 mol, 1.17 g | C(CCC)N(CCCC)CC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C23H29FN6O2
reactant | hydrochloric acid | 0.0031 mol, 3.7N, 0.65 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-(5-dibutylaminomethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6- one hydrochloride | 0.87 g, 69% | Cl.C(CCC)N(CCCC)CC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | InChI=1S/C23H29FN6O2.ClH/c1-4-6-10-29(11-7-5-2)14-20-26-22(27-32-20)21-19-13-28(3)23(31)17-12-16(24)8-9-18(17)30(19)15-25-21;/h8-9,12,15H,4-7,10-11,13-14H2,1-3H3;1H
